US07868014B2
Add trifluoroacetic acid (20 mL) to a solution of (S)-[1-(5-bromopyrimidin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (3.66 g, 10.7 mmol) in dichloromethane (20 mL). Stir 2 h and concentrate. Dissolve the residue in methanol and pass through a column of Amberjet® 4400 resin (OH-form). Wash the column with methanol and concentrate the eluant. Dissolve the residue in methanol/acetonitrile and add 1 N HCl (25 mL) in methanol. Collect the resulting solid by filtration, wash with acetonitrile and dry the solid to give (S)-1-(5-bromopyrimidin-2-yl)-pyrrolidin-3-ylamine hydrochloride as a tan solid (2.55 g, 85%).

reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-[1-(5-bromopyrimidin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 10.7 mmol, 3.66 g | C(C)(C)(C)OC(N[C@@H]1CN(CC1)C1=NC=C(C=N1)Br)=O | C13H19BrN4O2
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-1-(5-bromopyrimidin-2-yl)-pyrrolidin-3-ylamine hydrochloride | 2.55 g, 85% | Cl.BrC=1C=NC(=NC1)N1C[C@H](CC1)N | InChI=1S/C8H11BrN4.ClH/c9-6-3-11-8(12-4-6)13-2-1-7(10)5-13;/h3-4,7H,1-2,5,10H2;1H/t7-;/m0./s1
